US08664258B2
Step A: Preparation of the intermediate N-(3-(4-chloro-1-methyl-1H-pyrazol-5-yl)-4-hydroxyphenyl)-5-methylisoxazole-3-carboxamide
To a solution of 5-methylisoxazole-3-carboxylic acid (284.0 mg, 2236.0 μmol) dissolved in DCM (10.0 mL) was added HATU (1020.0 mg, 2683.0 μmol) followed by DIEA (586 μl, 3353 μmol). The solution was stirred at room temperature for 5 minutes. 4-amino-2-(1-methyl-1H-pyrazol-5-yl)phenol (500.00 mg, 2236 μmol) was added and the reaction mixture was stirred at 25° C. for 15 hours. The reaction mixture was subjected to purification by column chromatography (ethyl acetate:hexane 50:50) to afford the title compound as an off-white solid in 59.0% yield. LCMS m/z=333.2 (M+H), 1H NMR (400 MHz, DMSO-d6) δ ppm 2.69 (s, 3 H), 3.66 (s, 3 H), 6.64 (s, 1 H), 7.00 (d, J=8.84 Hz, 1 H), 7.61 (s, 1 H), 7.64 (d, J=2.53 Hz, 1 H), 7.73 (dd, J=8.84, 2.53 Hz, 1 H), 10.04 (s, 1 H), 10.60 (s, 1 H).

reactant | 5-methylisoxazole-3-carboxylic acid | 2236.0 μmol, 284.0 mg | CC1=CC(=NO1)C(=O)O | C5H5NO3
reactant | HATU | 2683.0 μmol, 1020.0 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 3353 μmol, 586 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-amino-2-(1-methyl-1H-pyrazol-5-yl)phenol | 2236 μmol, 500.00 mg | NC1=CC(=C(C=C1)O)C1=CC=NN1C | C10H11N3O
reactant | DCM | 10.0 mL | C(Cl)Cl | CH2Cl2
product | N-(3-(4-chloro-1-methyl-1H-pyrazol-5-yl)-4-hydroxyphenyl)-5-methylisoxazole-3-carboxamide | 59.0% yield | ClC=1C=NN(C1C=1C=C(C=CC1O)NC(=O)C1=NOC(=C1)C)C | C15H13ClN4O3
